US06265415B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethyl-4-fluorobenzyloxy)imidazo[1,2-a]pyridine
2,3-Dimethyl-8-hydroxyimidazo[1,2-a]pyridine (1.7 g, 10 mmol), 2,6-dimethyl-4-fluorobenzylbromide (2.3 g, 10 mmol), sodium iodide (0.5 g, 0.3 mmol) and sodium carbonate (2.6 g, 28 mmol) were added to acetone (75 ml) and the mixture was refluxed for 6 h. Methylene chloride was added and the mixture was filtered and the solvents were evaporated under reduced pressure. Purification by column chromatography on silica gel using methylene chloride:ethylacetate(1:2) as eluent gave the title compound as a white powder. (0.85 g, 28%)

reactant | 2,3-Dimethyl-8-hydroxyimidazo[1,2-a]pyridine | 10 mmol, 1.7 g | CC=1N=C2N(C=CC=C2O)C1C | C9H10N2O
reactant | 2,6-dimethyl-4-fluorobenzylbromide | 10 mmol, 2.3 g | CC1=C(CBr)C(=CC(=C1)F)C | C9H10BrF
reactant | sodium iodide | 0.3 mmol, 0.5 g | [I-].[Na+]
reactant | sodium carbonate | 28 mmol, 2.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 2,3-dimethyl-8-(2,6-dimethyl-4-fluorobenzyloxy)imidazo[1,2-a]pyridine | CC=1N=C2N(C=CC=C2OCC2=C(C=C(C=C2C)F)C)C1C | C18H19FN2O
